US06015825
4-Ethyl-6-(1,2,4-triazol-1-yl)pyrimidine
A mixture of 4-chloro-6-ethylpyrimidine (1.42 g, 10 mmol) and 1H-1,2,4-triazole (1.4 g, 20 mmol) was heated to 120° C. with stirring to give a yellow oil, which deposited an orange solid. The mixture was maintained at 120° C. for 0.2 hours, cooled to 70° C. and dissolved in methanol (10 ml). The solution was diluted with dichloromethane (50 ml) and was washed with saturated sodium bicarbonate solution (20 ml). The aqueous phase was extracted with dichloromethane (2×20 ml) and the combined organic layers were dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica by elution with ethyl acetate to give the title compound (1.44 g, 82%) as a yellow solid, m.p. 75-76° C., which was characterised by 1H-N.M.R. spectroscopy.

reactant | 4-chloro-6-ethylpyrimidine | 10 mmol, 1.42 g | ClC1=NC=NC(=C1)CC | C6H7ClN2
reactant | 1H-1,2,4-triazole | 20 mmol, 1.4 g | N1N=CN=C1 | C2H3N3
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Ethyl-6-(1,2,4-triazol-1-yl)pyrimidine | 1.44 g, 82% | C(C)C1=NC=NC(=C1)N1N=CN=C1 | C8H9N5
